US05965741
A solution of 2-(2-benzyloxy-5-bromophenyl)-1,3-dioxolane (7.8 g, 23.2 mmol) in freshly distilled THF (160 ml) was cooled to -75° C. with stirring under an argon atmosphere. To this solution was added n-butyl lithium (25.6 ml, 1.6 M in hexane) keeping the temperature below -70° C. The reaction mixture was stirred at -70° C. for 1 hour. The reaction was allowed to warm to -60° C. and added to a cooled (-60° C.) solution of ethyl chloroformate (5.05 g, 46.5 mmol) in freshly distilled THF (70 ml). The reaction was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was diluted with ethyl ether (100 ml), washed with ice/water (1×50 ml), saturated aqueous NaHCO3 (1×35 ml), brine (1×35 ml) dried over MgSO4 and evaporated. The product was purified by chromatography (eluant: ethyl ether/hexane) to give 2-(2-benzyloxy-5-ethoxycarbonylphenyl)-1,3-dioxolane as a colourless gum (4.2 g, 55%).

reactant | 2-(2-benzyloxy-5-bromophenyl)-1,3-dioxolane | 23.2 mmol, 7.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C1OCCO1 | C16H15BrO3
reactant | THF | 160 ml | C1CCOC1 | C4H8O
reactant | n-butyl lithium | 1.6 M, 25.6 ml | C(CCC)[Li]
reactant | ethyl chloroformate | 46.5 mmol, 5.05 g | ClC(=O)OCC | C3H5ClO2
reactant | THF | 70 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(2-benzyloxy-5-ethoxycarbonylphenyl)-1,3-dioxolane | 4.2 g, 55% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)OCC)C1OCCO1 | C19H20O5
